US08975416B2
4,4′-(1H,1′H-5,5′-Bibenzo[d]imidazole-2,2′-diyl)diphenol (Compound 3)
A mixture of biphenyl-3,3′,4,4′-tetraamine (214 mg, 2.00 mmol), 4-hydroxybenzaldehyde (489 mg, 4.00 mmol) and Na2S2O5 (380 mg, 2.00 mmol) in IMS-H2O (3:1, 20 mL) was heated under microwave irradiation for 160° C. for 10 min, then 180° C. for 10 min. The mixture was filtered and washed with IMS. H2O was added to the filtrate, and the resulting white precipitate was filtered, and washed with water and Et2O. Column chromatography of the crude solid (EtOAc to 95:5 EtOAc-MeOH) afforded the product as a yellow solid (50 mg, 6%).

reactant | biphenyl-3,3′,4,4′-tetraamine | 2.00 mmol, 214 mg | C1(=CC(=C(C=C1)N)N)C1=CC(=C(C=C1)N)N | C12H14N4
reactant | 4-hydroxybenzaldehyde | 4.00 mmol, 489 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4,4′-(1H,1′H-5,5′-Bibenzo[d]imidazole-2,2′-diyl)diphenol | 50 mg, 6% | N1C(=NC2=C1C=CC(=C2)C2=CC1=C(NC(=N1)C1=CC=C(C=C1)O)C=C2)C2=CC=C(C=C2)O | C26H18N4O2
